US06291464B1
To a stirred solution of (S)-1-tert-butoxycarbonyl-2-methyl-4-benzylpiperazine (864 mg) in methanol (5 ml) was added concentrated hydrochloric acid (0.94 ml). The reaction mixture was stirred at 50° C. for 1 hour. After cooling, the solvent was evaporated off. The residue was made to alkali with 1N aqueous solution of sodium hydroxide and extracted with ethyl acetate (×3). The combined organic layer was dried over magnesium sulfate and concentrated to give (S)-1-benzyl-3-methylpiperazine (588 mg).

reactant | (S)-1-tert-butoxycarbonyl-2-methyl-4-benzylpiperazine | 864 mg | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)CC1=CC=CC=C1)C | C17H26N2O2
reactant | hydrochloric acid | 0.94 ml | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | (S)-1-benzyl-3-methylpiperazine | 588 mg | C(C1=CC=CC=C1)N1C[C@@H](NCC1)C | C12H18N2
